US04472316
The procedure in Example 12(1) was followed, except that 5.64 g of 3-[4-(4-methylphenoxy)benzoyl]acrylic acid and 5.98 g of ethyl iodide were used in place of 3-(4-phenoxybenzoyl)acrylic acid and methyl iodide, respectively, to give 4.74 g of ethyl 3-[4-(4-methylphenoxy)benzoyl]acrylate in the form of an oil.

reactant | 3-[4-(4-methylphenoxy)benzoyl]acrylic acid | 5.64 g | CC1=CC=C(OC2=CC=C(C(=O)C=CC(=O)O)C=C2)C=C1 | C17H14O4
reactant | ethyl iodide | 5.98 g | C(C)I | C2H5I
reactant | 3-(4-phenoxybenzoyl)acrylic acid | O(C1=CC=CC=C1)C1=CC=C(C(=O)C=CC(=O)O)C=C1 | C16H12O4
reactant | methyl iodide | CI | CH3I
product | ethyl 3-[4-(4-methylphenoxy)benzoyl]acrylate | 4.74 g | CC1=CC=C(OC2=CC=C(C(=O)C=CC(=O)OCC)C=C2)C=C1 | C19H18O4
